US09428502B2
Compound 4.1. 3-Formyl-4-methylbenzoic acid
To a stirred solution of 3-bromo-4-methylbenzoic acid (2.14 g, 10.0 mmol) in tetrahydrofuran (30 mL) under nitrogen at -78° C. was added n-BuLi (10 mL, 2.5 M in THF, 25 mmol) drop-wise. The mixture was stirred for 1 h below −70° C., then DMF (5 mL) was slowly added. The resulting solution was slowly warmed to room temperature and stirred for 1 h, then carefully quenched by slow addition of water (50 mL). The pH was adjusted to −3-4 using aqueous HCl (6 M) and the resulting mixture was extracted with ethyl acetate (2×50 mL). The combined organics was dried (Na2SO4), filtered, and concentrated under reduced pressure to yield the title compound as a yellow solid (1.6 g, 98%).

reactant | 3-bromo-4-methylbenzoic acid | 10.0 mmol, 2.14 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | n-BuLi | 25 mmol, 2.5 M, 10 mL | [Li]CCCC
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-Formyl-4-methylbenzoic acid | 1.6 g, 98% | C(=O)C=1C=C(C(=O)O)C=CC1C | C9H8O3
